US06008230
A mixture of 3-acetyl-4-chloro-8-nitroquinoline (140 mg) and methylhydrazine (77.2 mg) in ethylene chloride was refluxed for 30 minutes. The mixture was concentrated in vacuo, and the residue was purified by column chromatography on silica gel (methanol-dichloroethane) to give 2,3-dimethyl-6-nitro-2H-pyrazolo[4,3-c]quinoline (61.2 mg).

reactant | 3-acetyl-4-chloro-8-nitroquinoline | 140 mg | C(C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)[N+](=O)[O-] | C11H7ClN2O3
reactant | methylhydrazine | 77.2 mg | CNN | CH6N2
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 2,3-dimethyl-6-nitro-2H-pyrazolo[4,3-c]quinoline | 61.2 mg | CN1N=C2C(C=NC=3C(=CC=CC23)[N+](=O)[O-])=C1C | C12H10N4O2
